US08633312B2
2-(Anilino)-7-hydroxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one (11e)
0.2 g (0.61 mmol) of 2-anilino-7-methoxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one is dissolved in 2 ml of glacial acetic acid, 2 ml of HBr (45%) are added and the mixture is refluxed for 6 h. The solution is hydrolyzed with 200 g of ice and the precipitate is filtered off. The product is obtained in the form of a white powder. C21H17NO2 (Mr=315.380)

reactant | 2-anilino-7-methoxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | 0.61 mmol, 0.2 g | N(C1=CC=CC=C1)C1=CC2=C(C(C3=C(CC2)C=CC(=C3)OC)=O)C=C1 | C22H19NO2
reactant | HBr | 2 ml | Br | BrH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-(Anilino)-7-hydroxy-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | N(C1=CC=CC=C1)C1=CC2=C(C(C3=C(CC2)C=CC(=C3)O)=O)C=C1 | C21H17NO2
